US07384982B2
Preparation of Disodium N-(5-chlorosalicyloyl)-8-aminocaprylate
A 22 L, Pyrex glass, five-neck, round bottom flask was equipped with an overhead stirrer, thermocouple temperature read out, and heating mantle. The flask was charged with 2602.3 g of N-(5-chlorosalicyloyl)-8-aminocaprylic acid and 4000 mL water. To this stirred slurry was added a solution of 660 g of sodium hydroxide dissolved in 2000 mL water. The mixture was heated to about 55° C. and most of the solids dissolved. The slightly hazy solution was hot filtered through Whatman #1 filter paper to remove the insoluble particulates. The filtrate was transferred to the pot flask of a large laboratory rotary evaporator. The rotary evaporator was operated with a bath temperature of about 60° C. and a pressure of 60 mmHg. Water was removed from the disodium salt solution until a solid mass was obtained in the rotary evaporator pot flask. The vacuum was released and pot flask removed from the rotary evaporator. The solids were scraped from the pot flask into trays. These trays were then placed in a vacuum oven and the solids dried at about 60° C. and full vacuum for about 48 hours. The dried solids were run through a laboratory mill until all the solids passed through a 35 mesh screen. The milled and sieved disodium N-(5-chlorosalicyloyl)-8-aminooctanate was put into trays and placed back into the drying oven. Drying was continued at about 45° C. and full vacuum to obtain 2957.1 g of the desired product as a dry powder.

reactant | N-(5-chlorosalicyloyl)-8-aminocaprylic acid | 2602.3 g | ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)O)=C1)O | C15H20ClNO4
reactant | sodium hydroxide | 660 g | [OH-].[Na+]
solvent | water | 2000 mL | O | H2O
solvent | water | 4000 mL | O | H2O
product | Disodium N-(5-chlorosalicyloyl)-8-aminocaprylate | 2957.1 g | ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)[O-])=C1)O.[Na+].[Na+].ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)[O-])=C1)O | InChI=1S/2C15H20ClNO4.2Na/c2*16-11-7-8-13(18)12(10-11)15(21)17-9-5-3-1-2-4-6-14(19)20;;/h2*7-8,10,18H,1-6,9H2,(H,17,21)(H,19,20);;/q;;2*+1/p-2
